US08252826B2
7.3 6-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-nicotinic acid
In analogy to the procedure described in example 2, 6-{2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-nicotinic acid methyl ester was hydrolysed using aqueous sodium hydroxide solution in MeOH to give the title compound as off-white solid. MS: m/e=466.2 [M+H+].

reactant | 6-{2-[2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)=O | C27H30ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 6-{2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethoxy}-nicotinic acid | ClC1=CC=C(C=C1)N1N=C2C(=C1C(COC1=NC=C(C(=O)O)C=C1)C1CCCCC1)CCC2 | C26H28ClN3O3
